US04041076
N-(4-Hydroxy-alpha-methylphenethyl)acetamide
A 0.2 mole preparation of rac. N-(4-acetoxy-alpha-methylphenethyl)acetamide was prepared as described above except that a more concentrated sodium hydroxide solution was used: i.e., 16 g. of NaOH in 50 ml. of water. Overnight, the oil partially crystallized. The mixture was warmed to 60°-70° C. and 110 ml. of 10% NaOH solution added in portions until a permanent pH of 9 was obtained. The mixture was cooled to 25° C., 125 ml. of n-butanol was added; the two phase mixture transferred to a separatory funnel, and the layers separated. Three more extractions with n-butanol were made and the combined extracts dried with anhydrous MgSO4. After removal of the drying agent by filtration, the solvent was distilled in a rotary evaporator. The traces of n-butanol that remained were removed by the addition of 100 ml. of water and reevaporation in a rotary evaporator, whereupon the residue crystallized on cooling; yield 46 g. The product was recrystallized from 450 ml. of boiling water and 26 g. of crystalline material, m.p. 154.4°-158.5° was obtained. An analytical sample was obtained by recrystallization from hot ethyl acetate, m.p. 160.5°-163.5°.

reactant | rac. N-(4-acetoxy-alpha-methylphenethyl)acetamide | C(C)(=O)OC1=CC=C(CC(C)NC(C)=O)C=C1 | C13H17NO3
reactant | sodium hydroxide | [OH-].[Na+]
reactant | water | O | H2O
reactant | n-butanol | C(CCC)O | C4H10O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(4-Hydroxy-alpha-methylphenethyl)acetamide | OC1=CC=C(CC(C)NC(C)=O)C=C1 | C11H15NO2
